US05219871
Preparation of 1-cyano-1,1-diphenyl-3-[N-methyl-N-(3-phenylprop-1-yl)amino]propane
A mixture containing 3-bromo-1-cyano-1,1-diphenyl-propane (1.5 g-see Preparation 4), 1-(N-methylamino)-3-phenylpropane (0.746 g), anhydrous potassium carbonate (1.38 g) and acetonitrile (50 ml) was heated under reflux for 48 hours and then concentrated in vacuo. Water (30 ml) was added to the residue and the mixture was extracted with dichloromethane (3×40 ml). The combined dichloromethane extracts were dried (Na2SO4) and concentrated in vacuo to give a gum which was purified by column chromatography on silica eluting with hexane containing dichloromethane (25% up to 100%) and then dichloromethane containing methanol (0% up to 4%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as a gum, yield, 0.93 g.

reactant | 3-bromo-1-cyano-1,1-diphenyl-propane | 1.5 g | BrCCC(C1=CC=CC=C1)(C1=CC=CC=C1)C#N | C16H14BrN
reactant | 1-(N-methylamino)-3-phenylpropane | 0.746 g | CNCCCC1=CC=CC=C1 | C10H15N
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 1-cyano-1,1-diphenyl-3-[N-methyl-N-(3-phenylprop-1-yl)amino]propane | C(#N)C(CCN(CCCC1=CC=CC=C1)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H28N2
